US07642264B2
2-Chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyridine
4-(3,4-Dichloro-phenyl)-6-methyl-1H-pyridin-2-one: The compound was prepared from the above described (E)-4-(3,4-dichloro-phenyl)-but-3-en-2-one (26.7 g, 124 mmol), commercially available 1-ethoxycarbonylmethyl-pyridinium bromide [CAS-No. 17282-40-5] (33.6 g, 137 mmol) and ammonium acetate (47.8 g, 621 mmol) in EtOH (150 mL) according to general procedure Ib step 1. Obtained as a light brown solid (25.4 g, 81%). MS (ISP) 254.1 [(M+H)+], 256.2 [(M+2+H)+] and 258.0 [(M+4+H)+]0.3) The title compound was prepared from the above described 4-(3,4-dichloro-phenyl)-6-methyl-1H-pyridin-2-one (25.4 g, 100 mmol) and phosphoryl chloride (45.6 mL, 500 mmol) according to the general procedure Ia to d preparation of chlorides. Obtained as an off-white solid (23.7 g, 87%). MS (ISP) 272.1 [(M+H)+], 274.0 [(M+2+H)+], 276.0 [(M+4+H)+] and 278.0 [(M+6+H)+].

reactant | 4-(3,4-dichloro-phenyl)-6-methyl-1H-pyridin-2-one | 100 mmol, 25.4 g | ClC=1C=C(C=CC1Cl)C1=CC(NC(=C1)C)=O | C12H9Cl2NO
reactant | phosphoryl chloride | 500 mmol, 45.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3,4-dichloro-phenyl)-6-methyl-pyridine | ClC1=NC(=CC(=C1)C1=CC(=C(C=C1)Cl)Cl)C | C12H8Cl3N
